US03974161
7,8-Dimethoxypyrimido-[4,5-b]-Quinolin-4(3H)-One-2-Hydroxamic Acid
Ethyl 7,8-dimethoxypyrimido-[4,5-b]quinolin-4(3H)-one-2-carboxylate (200 mg., 6.08 millimoles) is added to a solution of hydroxylamine hydrochloride (69 mg., 100 millimoles) and triethylamine (100 mg., 100 millimiles) in absolute ethanol (50 ml.). The mixture is heated at 95° C. overnight in a bomb and then cooled. The insoluble yellow solid is filtered off, washed with hot ethanol and dried to provide 143 mg. (74%) of the title product. M.P. 337° C. (dec.).

reactant | Ethyl 7,8-dimethoxypyrimido-[4,5-b]quinolin-4(3H)-one-2-carboxylate | 6.08 millimoles, 200 mg | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)OCC | C16H15N3O5
reactant | hydroxylamine hydrochloride | 100 millimoles, 69 mg | Cl.NO
reactant | triethylamine | 100 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7,8-Dimethoxypyrimido-[4,5-b]-Quinolin-4(3H)-One-2-Hydroxamic Acid | 74% | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)NO | C14H12N4O5
